US05304549
400 g of D-leucine was dissolved in 5 l of water containing 296 ml of concentrated sulfuric acid and cooled to -2°. A solution of 421 g of sodium nitrite in 1.25 l of water was added slowly while holding the temperature at -2°. The mixture was stirred at 0° for 1.5 hours and then allowed to warm to room temperature overnight. The mixture was extracted three times with ethyl acetate. The combined organic extracts were washed with sodium chloride solution, dried over anhydrous magnesium sulfate and evaporated to give 168 g of D-leucic acid as a pale yellow oil.

reactant | D-leucine | 400 g | N[C@H](CC(C)C)C(=O)O | C6H13NO2
reactant | sodium nitrite | 421 g | N(=O)[O-].[Na+]
solvent | water | 5 l | O | H2O
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | 1.25 l | O | H2O
product | D-leucic acid | 168 g | C([C@H](O)CC(C)C)(=O)O | C6H12O3
